US07019026B1
A solution of the above oxalic acid 2-amino-3-tert-butoxycarbonyl-4,7-dihydro-5H-thieno[2,3-c]pyran-5-ylmethyl ester tert-butyl ester (8.3 g, 20.1 mmol) and potassium carbonate (1.7 g, 12.3 mmol) was stirred in methanol (80 ml) in presence of water (3 ml) at room temperature for 10 min., at which time TLC indicated reaction complete. Methanol was removed in vacuo and the crude product was dissolved in dichloromethane (300 ml) and washed with water (3×150 ml). The organic phase was dried (MgSO4), filtered and the solvent evaporated in vacuo. The residue was purified on flash chromatography on silica gel using a gradient of hexane/ethyl acetate (90:10 to 50:50 gradient) as eluent. Pure fractions were collected and the solvent evaporated in vacuo affording 0.65 g (9%) of oxalic acid 2-amino-3-tert-butoxycarbonyl-4,7-dihydro-5H-thieno[2,3-c]pyran-5-ylmethyl ester methyl ester as a solid.

reactant | oxalic acid 2-amino-3-tert-butoxycarbonyl-4,7-dihydro-5H-thieno[2,3-c]pyran-5-ylmethyl ester tert-butyl ester | 20.1 mmol, 8.3 g | C(C)(C)(C)OC(C(=O)OCC1CC2=C(CO1)SC(=C2C(=O)OC(C)(C)C)N)=O | C19H27NO7S
reactant | potassium carbonate | 12.3 mmol, 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 3 ml | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | oxalic acid 2-amino-3-tert-butoxycarbonyl-4,7-dihydro-5H-thieno[2,3-c]pyran-5-ylmethyl ester methyl ester | 0.65 g, 9% | COC(C(=O)OCC1CC2=C(CO1)SC(=C2C(=O)OC(C)(C)C)N)=O | C16H21NO7S
